US08183280B2
B. (2S)-1-(Isopropylcarbamoyl)pyrrolidine-2-carboxylic acid
(2S)-1-(Isopropylcarbamoyl)pyrrolidine-2-carboxylic acid benzyl ester (528 mg, 1.82 mmol) was dissolved in THF/H2O (9:1, 10 ml). Lithium hydroxide monohydrate (229 mg, 5.46 mmol) was added. After 18 h at room temperature the reaction mixture was diluted with ethyl acetate (50 ml). This solution was washed with 1M KHSO4, water and brine, dried (Na2SO4) and evaporated in vacuo to give a colourless oil identified as the title compound (148 mg, 0.74 mmol, 41%).

reactant | (2S)-1-(Isopropylcarbamoyl)pyrrolidine-2-carboxylic acid benzyl ester | 1.82 mmol, 528 mg | C(C1=CC=CC=C1)OC(=O)[C@H]1N(CCC1)C(NC(C)C)=O | C16H22N2O3
reactant | Lithium hydroxide monohydrate | 5.46 mmol, 229 mg | O.[OH-].[Li+]
solvent | THF H2O | 10 ml | C1CCOC1.O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (2S)-1-(Isopropylcarbamoyl)pyrrolidine-2-carboxylic acid | 0.74 mmol, 148 mg, 41% | C(C)(C)NC(=O)N1[C@@H](CCC1)C(=O)O | C9H16N2O3
